US06294527B1
7β-Tert-butoxycarbonylamino-3-[2-(7-hydroxymethyl-4-oxo-4H-1-benzothiopyran-2-yl)thiovinyl]-3-cephem-4-carboxylic acid benzhydryl ester (330 mg, 0.46 mmol) was suspended in anhydrous benzene (10 ml), added dropwise with thionyl chloride (0.55 ml, 7.59 mmol) while stirred at room temperature. Then, the reaction mixture was stirred at 50 minutes, added with ice water and extracted with ethyl acetate (50 ml). Ethyl acetate layer was washed with saturated saline solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue was crystallized from isopropyl ether to obtain 300 mg (yield: 89%) of 7β-tert-butoxycarbonylamino-3-[2(7-chloromethyl-4-oxo-4H-1-benzothiopyran-2-yl)thiovinyl]-3-cephem-4-carboxylic acid benzhydryl ester. Further, the process similar to that shown in (2) of the Example 1 was conducted to obtain 160 mg (yield: 62%) of the titled compound.

reactant | 7β-Tert-butoxycarbonylamino-3-[2-(7-hydroxymethyl-4-oxo-4H-1-benzothiopyran-2-yl)thiovinyl]-3-cephem-4-carboxylic acid benzhydryl ester | 0.46 mmol, 330 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(=O)OC(C)(C)C)=O)C=CSC=2SC1=C(C(C2)=O)C=CC(=C1)CO | C37H34N2O7S3
reactant | thionyl chloride | 7.59 mmol, 0.55 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 7β-tert-butoxycarbonylamino-3-[2(7-chloromethyl-4-oxo-4H-1-benzothiopyran-2-yl)thiovinyl]-3-cephem-4-carboxylic acid benzhydryl ester | 300 mg, yield: 89% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(=O)OC(C)(C)C)=O)C=CSC=2SC1=C(C(C2)=O)C=CC(=C1)CCl | C37H33ClN2O6S3
